Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rapid cognitive decline
 
Major Surgical or Invasive Procedure:
Lumbar puncture
 
History of Present Illness:
___ is a very pleasant ___ year old right handed man 
with a history of TBI, HTN, NIDDM, who presents as a referral 
for expedited workup for rapid and progressive cognitive 
decline.

History is obtained from the patient and his wife.

He reports that some time in ___, he started to feel more 
fatigue during his shifts as a ___. He was working 
the night shift then, but his family noticed that he appeared 
more tired than usual. He saw his PCP for this in ___, and 
underwent laboratory workup, for which the details were unclear, 
but was unremarkable other than low testosterone. He saw 
Endocrine for this, but was not started on supplementation. He 
did not have much in the way of memory issues then. Later in 
___, perhaps some time in ___, his wife also noticed that he 
was having a difficulty signing his name, which he was able to 
do previously without issues. In addition, he was noted to be 
more forgetful, not remembering his appointment, forgetting what 
he had for meals the night prior, etc. He himself became worried 
about this especially with his job, because he needed good 
attention and working memory for the police ___ job. In 
fact, he has not been working at his job since ___ out of 
concern for his ability to perform his duties. He saw a 
neurologist around this time, and underwent 2 lumbar punctures, 
which was remarkable for elevated WBC to 59, with lymphocytic 
predominance, as well as slightly elevated protein for his age, 
to ___. Opening pressure unknown. He also underwent a routine 
EEG, after sleep deprivation, for which he was told he had 
epileptiform discharges but unclear where. He was not started on 
medications. Lyme was negative, as well as VGKC antibodies.

He has had 2 discrete episodes of abnormal movements. Both 
times, his left hand "locked up" after using it to throw things, 
the first time was a pillow, and the next time was a key. He 
found that he could not relax his left hand for 5 minutes, and 
it looked like a "claw". He has had an intermittent "twitch" in 
his left arm, which had been going on for ___ years. 

Other than difficulty signing his name, he does not describe any 
other apraxias. He is still able to dress, drive, and do common 
things at home, other than things that he has to remember to do 
on time, such as the bills, for which he still does them, only 
supervised by his wife. 

In addition, he underwent a CT torso which revealed a kidney 
lesion, which upon further workup was revealed to be renal cell 
carcinoma. He saw an oncologist, and underwent a PET, which 
showed the kidney lesion as well as PED avidity in his prostate. 
He saw his urologist yesterday, who obtained a PSA. He has 
experienced a 30 pound unintentional weight loss in the past 
___ months. 

He saw Dr. ___ in ___ clinic today, who was 
concerned about the progressive nature of his disease course, 
and referred him for expedited workup. MoCA there was ___, 
with points lost for executive function
 
Past Medical History:
HTN
NIDDM
TBI due to MVA several decades ago, with known left frontal 
damage
Recent diagnosis of renal cell carcinoma
 
Social History:
___
Family History:
Significant family history for autoimmune conditions including a 
mother who had ___ granulomatosis, a sister with ___ 
disease, and a niece, the daughter of his sister, who has 
rheumatoid arthritis.
 
Physical Exam:
ADMISSION EXAM
==============

PHYSICAL EXAMINATION
General:  NAD, somewhat sweaty.
HEENT: NCAT,  no oropharyngeal lesions, neck supple. There is a
greasy yellow lesion situated atop an erythematous left eyelid,
likely a stye
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. He is able to recite the months of
the year backwards, though takes >15 seconds to do so (took
around 25 seconds). Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact to
stroke card items.  No paraphasias.  No dysarthria. Normal
prosody. Able to register 3 objects and recall ___ at 5 minutes
spontaneously, and ___ with categorical cues. No apraxia for
ideomotor tasks (brush teeth, chop up vegetables, start car,
etc), and slight difficulty with constructional apraxia (copying
atypical shapes with hands). Dressing apraxia not formally
tested. No evidence of hemineglect. No left-right confusion. 
Able
to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No cogwheeling. No drift. No
tremor or asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [___]
 L  2+    2+     3+      3+       1
 R  2+    2+     2+      3+       1  
Plantar response strong withdrawal, upgoing on left, down on
right.

- Sensory: No deficits to light touch, pin. Slight decrease to
proprioception bilaterally to fine movements of the great toes. 
No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Mild intention tremor with left hand. Good speed 
and
intact cadence with rapid alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE EXAM
==============
VS: ___ ___ Temp: 98.8 PO BP: 138/88 R Sitting HR: 92 RR: 
18 O2 sat: 96% O2 delivery: 287 FSBG: 287 
Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM
Neck: Supple
Pulmonary: no increased WOB
Cardiac: well perfused 
Abdomen: soft, non-distended
Extremities: no edema
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with 
some difficulty remembering when events happened. Attentive. 
Language is fluent with intact repetition and comprehension. 
Normal prosody. There were no paraphasic errors. Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. Pt was able to register ___ objects on immediate 
repetition. After 5 minutes, he recalled ___ with category 
prompting and recalled the other ___ with multiple choice 
options. There was no evidence of neglect or constructional 
apraxia.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 5 to 3mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub and conversation 
bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk. Right upper extremity with paratonia. No 
pronator drift bilaterally. When asked to close eyes and "stop 
traffic", left hand intermittently drifts slightly down and to 
the left (~1cm every few seconds) without pronation or 
supination. No asterixis noted. Resting tremor of left hand 
noted. Moving all 4 extremities spontaneously and able to stand 
up and walk without assistance. 

   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch in all 4 extremities. No 
deficits to graphesthesia (numbers on palm) and stereognosis 
(pen, notebook).

-DTRs:    
    Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2
 Plantar response was flexor bilaterally though with a brisk 
withdrawal (attributes to being ticklish).

-Coordination: No dysmetria on FNF or HKS bilaterally. Left FNF 
was slower and a mild tremor was present (also at rest). During 
HKS, there was some posturing of the right hand in a flexed 
position. No dysdiadochokinesia was noted. In tapping ___ and 
___ fingers together, left hand is slower and more effortful 
with appreciable decrement. On printing and signing his name, 
demonstrated minor ___ and increased need for attention 
while signing. Size of writing was normal.

-Gait: Romberg absent. Normal base width, steadiness, and length 
of each step but with decreased right arm swing. On walking 
heel-to-toe, is extremely unsteady and requires assistance to 
prevent falling.
 
Pertinent Results:
RELEVANT LABS
=============
___ 11:18PM   GLUCOSE-413* UREA N-18 CREAT-1.2 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-31 ANION GAP-9*
___ 11:18PM   ALT(SGPT)-11 AST(SGOT)-9 LD(LDH)-123 ALK 
PHOS-94 TOT BILI-0.3
___ 11:18PM   ALBUMIN-4.0 CALCIUM-9.2 PHOSPHATE-2.6* 
MAGNESIUM-1.6 CHOLEST-142
___ 11:18PM   VIT B12-318 FERRITIN-289
___ 11:18PM   TRIGLYCER-183* HDL CHOL-37* CHOL/HDL-3.8 
LDL(CALC)-68
___ 11:18PM   TSH-1.7
___ 11:18PM   RHEU FACT-11 ___ CRP-9.8* ESR-6 
cdsDNA-NEGATIVE ANTITPO-LESS THAN 
___ 11:18PM   C3-120 C4-24
___ 11:18PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:18PM   tTG-IgA-6
___ 11:18PM   WBC-6.6 RBC-4.22* HGB-12.9* HCT-36.9* MCV-87 
MCH-30.6 MCHC-35.0 RDW-13.4 RDWSD-42.5
___ 11:18PM   PLT COUNT-238
___ 11:18PM   ___ PTT-25.4 ___
___ 05:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-300* KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ Negative for ___ antibodies
___ ACE-4 (low compared to normal ___

CSF
===
___ 10:43AM CEREBROSPINAL FLUID (CSF) TNC-6* RBC-1 Polys-0 
___ ___ 10:43AM CEREBROSPINAL FLUID (CSF) TotProt-53* 
Glucose-147 LD(LDH)-17
___ Negative for CMV and EBV
___ Enterovirus Culture (Preliminary): No Enterovirus 
isolated.
___
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Preliminary):    NO GROWTH.

IMAGING
=======
___ MR HEAD W & W/O CONTRAST
1. No evidence of acute infarction, intracranial hemorrhage, or 
mass lesion.
2. Moderate cerebral atrophy, with prominence of posterior 
lateral ventricle and occipital horns.  Although there is a 
narrow callosum all angle, no other findings NPH such as 
crowding of the sulci at the vertex, enlarged anterior cingulate 
sulcus sign or sylvian fissure dilatation out of proportion.
3. Focal encephalomalacia in left rectus gyrus and orbital 
frontal lobe.
4. No evidence of mesial temporal atrophy.
5. Complete opacification of the left maxillary sinus and mild 
mucosal
thickening of the ethmoid sinuses.

EEG
===
___ to ___
IMPRESSION: This telemetry captured no push button activations. 
The
background showed a normal waking pattern. There were infrequent 
single sharp waves in the temporal regions without clearly 
epileptiform features. There were no electrographic seizures.
 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ right-handed male with PMH of TBI, 
T2DM, HTN, and recent diagnosis of renal cell carcinoma, 
presenting with progressive executive and memory problems over 
several months, difficulty writing, and two episodes of 
inability to release his L hand. He saw Dr. ___ in outpatient 
clinic on ___ and was admitted for expedited workup of rapid 
cognitive decline. In the hospital, workup included MRI, 
extensive serum testing, repeat LP, and vEEG.

ACUTE ISSUES:
=============
# Rapid Cognitive Decline
# Memory Loss
The prior CSF pleocytosis suggested encephalitis, so testing was 
pursued for a broad differential including infectious (more 
likely viral given predominantly lymphocytes), autoimmune, and 
malignant etiologies. An LP was repeated on ___ which showed 
improvement with TNC only 6, but still slightly high protein of 
53. The differential continues to include these causes of 
encephalitis but it is also possible that an acute to subacute 
process has been resolving over the past ___ months. Test 
results received so far decrease the likelihood of malignancy, 
___, sarcoidosis, EBV, CMV, and thyroid-related problems.

vEEG and MRI failed to show a cause of his presentation. MRI was 
most notable for  moderate cerebral atrophy with enlarged 
ventricles. He does not report urinary incontinence which 
decreases likelihood of NPH, but does have unsteadiness on 
heel-to-toe walking. NPH is less likely given the other 
pertinent negatives on imaging and lack of improvement after LP 
but remains on the differential if other causes are ruled out.

On exam, he demonstrated some parkinsonian features including a 
resting tremor of the left hand, right arm paratonia, and 
decreased right arm swing on walking. It is possible that he has 
an underlying parkinsonian syndrome such as corticobasal 
degeneration contributing to these features and cognitive 
decline, in addition to an acute to subacute process causing 
pleocytosis. Of note, his CSF pleocytosis is markedly improved 
compared to his prior LP.

His symptoms remained stable during his hospital stay. He was 
discharged home with instructions for follow-up with Dr. ___ 
in the outpatient clinic.

TRANSITIONAL ISSUES:
====================
# Follow up outstanding CSF studies most of which are pending at 
the time of discharge from the hospital.

# Touch base with Dr. ___ further workup/evaluation 
as patient was referred in to the hospital by Dr. ___.

# Glucose levels were high on admission (serum 234, urine 300). 
He may benefit from checking his blood sugars more regularly and 
discussing T2DM management with his PCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Pioglitazone 50 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 100 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 100 mcg 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*0 
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Lisinopril 20 mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  Pioglitazone 50 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rapid cognitive decline
Hypertension
Diabetes

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital so we could expedite the workup of your 
progressive cognitive decline and memory loss. While here, you 
had an MRI of your brain, an EEG, as well as a lumbar puncture. 
The results of the lumbar puncture will slowly come back over 
the next couple of weeks and you will review this with Dr. ___ 
___ you follow up with him in the clinic.

After leaving the hospital, take all of your medications as 
prescribed and follow up with Dr. ___ as scheduled. We are 
working on finalizing the details of your appointment with him.

We wish you the best!
Your ___ Care Team

 
Followup Instructions:
___